US03946049
5-(2-Nitrophenyl)-2-furamidoxime Hydrochloride
A mixture of 5-(2-nitrophenyl)-2-furonitrile (34 g, 0.16 mole), KOH (9.5 g, 0.17 mole), hydroxylamine hydrochloride (11.5 g, 0.165 mole) and absolute alcohol (400 ml) was heated under reflux for 2 hours. The reaction mixture was cooled in ice, and the insoluble material was collected by filtration. The solvent was removed on a rotary evaporator, and the residual oil (44 g) was triturated with water several times. It was dissolved in anhydrous ether (ca. 2l. ) and the insoluble material was removed by filtration. Gaseous HCl was introduced into the filtrate yielding a solid that was collected by filtration and washed with anhydrous ether to give 33 g (73%). An analytical sample, m.p. 205°-206°, was obtained by recrystallization from isopropanol.

reactant | 5-(2-nitrophenyl)-2-furonitrile | 0.16 mole, 34 g | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(O1)C#N | C11H6N2O3
reactant | KOH | 0.17 mole, 9.5 g | [OH-].[K+]
reactant | hydroxylamine hydrochloride | 0.165 mole, 11.5 g | Cl.NO
solvent | isopropanol | C(C)(C)O | C3H8O
product | 5-(2-Nitrophenyl)-2-furamidoxime Hydrochloride | Cl.[N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(O1)C(N)=NO | InChI=1S/C11H9N3O4.ClH/c12-11(13-15)10-6-5-9(18-10)7-3-1-2-4-8(7)14(16)17;/h1-6,15H,(H2,12,13);1H
